US05420289
E. 6-(2-quinolinylmethoxy)-2-methyl-1-indanone
A mixture of the phenol (15. 1 6 g, 93.58 mmole) of Step D, powdered anhydrous potassium carbonate (12.93 g, 93.6 mmole), 18-crown-6 (2.47 g, 9.36 mmole) and dry acetonitrile (200 mL) is stirred at room temperature under a nitrogen for 15 minutes. 2-Chloromethylquinoline (free base, freshly prepared from 18.29 g or 102.96 mmole of the hydrochloride salt) is added in one portion and the mixture is placed in an oil bath heated at 65° C. for 11 hours (TLC, dichloromethane-methanol 9: 1, UV). The solvent is removed in vacuo and the residue is partitioned between ethyl acetate and water. The organic phase is washed with brine, dried (MgSO4) and evaporated to yield an oil which solidifies upon trituration with hexane (ca. 31 g). The crude product is purified by flash chromatography (on silica Merck-60, absorbed in methylene chloride, eluted with CH2Cl2 -ethyl acetate 90:10 and 85:15) to provide 5.95 g of slightly impure material together with 24.55 g of the pure title compound (pale yellow solid, 84.8%).

reactant | phenol | 93.58 mmole, 6 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 93.6 mmole, 12.93 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6 | 9.36 mmole, 2.47 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | 2-Chloromethylquinoline | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
reactant | hexane | ca. 31 g | CCCCCC | C6H14
solvent | dichloromethane methanol | ClCCl.CO
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | 6-(2-quinolinylmethoxy)-2-methyl-1-indanone | 24.55 g, 84.8% | N1=C(C=CC2=CC=CC=C12)COC1=CC=C2CC(C(C2=C1)=O)C | C20H17NO2
